US03963706
a. 2-Chloro-N-(2-bromo-4-sulphamoylphenyl)-acetamide
2-Bromo-4-sulphamoylaniline (20.0 g) and α-chloroacetyl chloride (25.0 g) were refluxed together for 60 min. and the product worked up as in Example 2(a) to yield 20.5 g white needles, m.p. 174°-175°

reactant | 2-Bromo-4-sulphamoylaniline | 20.0 g | BrC1=C(N)C=CC(=C1)S(N)(=O)=O | C6H7BrN2O2S
reactant | α-chloroacetyl chloride | 25.0 g | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(2-bromo-4-sulphamoylphenyl)-acetamide | 20.5 g | ClCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Br | C8H8BrClN2O3S
